US08227601B2
4(2-Amino-5-benzyl-5H-pyrrolo[3,2-d]pyrimidin-4-yloxy)-3,5-dimethylbenzonitrile
To a stirred suspension of NaH (155 mg, 6.47 mmol) in dry NMP (4 mL) was added 4-hydroxy-3,5-dimethylbenzonitrile (570 mg, 3.88 mmol), and the mixture was stirred at room temperature for 30 min under argon. The reaction mixture was added to a solution of 5-benzyl-4-chloro-5H-pyrrolo[3,2-d]pyrimidin-2-amine (400 mg, 1.55 mmol) in dry NMP (4 mL) and heated at 160° C. for 16 h. After completion of the reaction, the resulting mixture was diluted with water and washed with EtOAc. The combined organic layers were washed with water, 2% NaOH, brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by column chromatography, eluting with hexanes/ethyl acetate (2:1-1:4) to give the product as a light yellow solid (342 mg, 60%).

reactant | NaH | 6.47 mmol, 155 mg | [H-].[Na+]
reactant | 4-hydroxy-3,5-dimethylbenzonitrile | 3.88 mmol, 570 mg | OC1=C(C=C(C#N)C=C1C)C | C9H9NO
reactant | 5-benzyl-4-chloro-5H-pyrrolo[3,2-d]pyrimidin-2-amine | 1.55 mmol, 400 mg | C(C1=CC=CC=C1)N1C=CC=2N=C(N=C(C21)Cl)N | C13H11ClN4
solvent | NMP | 4 mL | CN1CCCC1=O | C5H9NO
solvent | NMP | 4 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 4(2-Amino-5-benzyl-5H-pyrrolo[3,2-d]pyrimidin-4-yloxy)-3,5-dimethylbenzonitrile | 342 mg, 60% | NC=1N=C(C2=C(N1)C=CN2CC2=CC=CC=C2)OC2=C(C=C(C#N)C=C2C)C | C22H19N5O
